US06307087B1
Synthesis of 2-(di-1-adamantylphosphino)biphenyl
An oven dried Schlenk tube was charged with magnesium turnings (240 mg, 9.89 mmol), 2-bromo-biphenyl (1.55 mL, 7.5 mmol). The tube was evacuated and backfilled with argon two times. To the above mixture THF (15 mL) was added through a rubber septum and the reaction mixture was heated to a mild reflux for 3 hours. The reaction mixture was then temporarily cooled to room temperature for the addition of cuprous chloride (930 mg, 9.45 mmol) followed by a solution of the di-1-adamantylchlorophosphine in 5 mL THF. Heating was resumed for an addtional 3 hours. The reaction mixture was cooled to room temperature, and ether (50 ml,) and pentane (50 mL) were added. The resulting suspension was stirred for 10 minutes, during which time a heavy dark-brown precipitate formed. The suspension was filtered and the solid was collected on a fritted funnel. The solid was partitioned between ethyl acetate-ether (100 mL 1:1) and 38% ammonium hydroxide-water (100 ml, 1:1). The mixture was vigorously shaken several times over 30 minutes. The aqueos layer washed twice with ether-ethyl acetate (1:1, 100 ml,). The combined organic layers were washed with brine (2×50 mL), dried over anhydrous magnesium sulfate, decanted, and concentrated in vacuo. The product was crystallized from toluene/methanol to afford 450 mg (5.8%) product as a white solid.

reactant | magnesium | 9.89 mmol, 240 mg | [Mg] | Mg
reactant | 2-bromo-biphenyl | 7.5 mmol, 1.55 mL | BrC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Br
reactant | di-1-adamantylchlorophosphine | C12(CC3CC(CC(C1)C3)C2)P(Cl)C23CC1CC(CC(C2)C1)C3 | C20H30ClP
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | pentane | 50 mL | CCCCC | C5H12
product | 2-(di-1-adamantylphosphino)biphenyl | 450 mg, 5.8% | C12(CC3CC(CC(C1)C3)C2)P(C2=C(C=CC=C2)C2=CC=CC=C2)C23CC1CC(CC(C2)C1)C3 | C32H39P
